US08975406B2
N-(4-(4-Formylphenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide (122 mg, 0.4 mmol), (R)-tert-butyl 3-methylpiperazine-1-carboxylate (120 mg, 0.6 mmol) and (polystyrylmethyl)trimethylammonium cyanoborohydride (loading 4 mmol/g, 0.3 g, 1.2 mmol) were shaken in DCM (15 mL) and acetic acid (1.5 mL) at room temperature for 5 d. The beads were filtered off and the filtrate concentrated in vacuo to give (R)-tert-butyl 4-(4-(2-(cyclopropanecarboxamido)pyrazolo[1,5-a]pyridin-4-yl)benzyl)-3-methylpiperazine-1-carboxylate which was used in the next step without further purification.

reactant | N-(4-(4-Formylphenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide | 0.4 mmol, 122 mg | C(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(C2)NC(=O)C2CC2 | C18H15N3O2
reactant | (R)-tert-butyl 3-methylpiperazine-1-carboxylate | 0.6 mmol, 120 mg | C[C@@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 4-(4-(2-(cyclopropanecarboxamido)pyrazolo[1,5-a]pyridin-4-yl)benzyl)-3-methylpiperazine-1-carboxylate | C1(CC1)C(=O)NC1=NN2C(C(=CC=C2)C2=CC=C(CN3[C@@H](CN(CC3)C(=O)OC(C)(C)C)C)C=C2)=C1 | C28H35N5O3
